US09302991B2
<Step-1>:6-(2-(trifluoromethoxy)ethoxy)nicotinonitrile
The title compound is prepared in 95% yield (509 mg, colorless oil) from 6-bromonicotinonitrile (422 mg, 2.31 mmol) and 2-(trifluoromethoxy)ethanol (300 mg, 2.31 mmol) by the similar manner in Step-1 of Amine-101.

reactant | 6-bromonicotinonitrile | 2.31 mmol, 422 mg | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | 2-(trifluoromethoxy)ethanol | 2.31 mmol, 300 mg | FC(OCCO)(F)F | C3H5F3O2
product | 6-(2-(trifluoromethoxy)ethoxy)nicotinonitrile | 95% yield | FC(OCCOC1=NC=C(C#N)C=C1)(F)F | C9H7F3N2O2
